US04284574
2,2-Bis(p-(3-allyloxy-2-hydroxypropyloxy)phenyl)propane
Bisphenol A (228 g; 1 mole), allyl glycidyl ether having an epoxide content of 8.64 equiv./kg (231.5 g; 2 equiv.), and benzyltrimethylammonium chloride (2 g) were stirred together and heated to 110° C., at which temperature an exothermic reaction commenced, the temperature rising spontaneously to 120° C. When the temperature began to fall, heating was resumed to keep the mixture at 120° C. After 11/2 hours at this temperature the mixture was heated at 150° C. for 3 hours. The residual mixture had an epoxide content of 0.20 equiv./kg, indicating that the reaction was essentially complete.

reactant | Bisphenol A | 1 mole, 228 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | allyl glycidyl ether | C(C1CO1)OCC=C | C6H10O2
catalyst | benzyltrimethylammonium chloride | 2 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 2,2-Bis(p-(3-allyloxy-2-hydroxypropyloxy)phenyl)propane | C(C=C)OCC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(COCC=C)O)O | C27H36O6
